US07951954B2
b) 2-{[3-(2-Hydroxy-ethyl)-benzylamino]-methyl}-phenol
A solution of {3-[(2-hydroxy-benzylamino)-methyl]-phenyl}-acetic acid methyl ester (0.81 g) in anhydrous tetrahydrofuran (20 mL) was treated with lithium borohydride (186 mg) and the whole stirred at room temperature for 30 minutes. The reaction mixture was then heated at 60° C. for 2 hours under nitrogen. After cooling to room temperature the mixture was partitioned between diethyl ether and dilute aqueous hydrochloric acid, the aqueous layer was separated and treated with excess solid sodium bicarbonate. The aqueous layer was extracted three times with dichloromethane and the combined organic washings were dried, filtered and evaporated under reduced pressure to yield the sub-titled compound (400 mg).

reactant | {3-[(2-hydroxy-benzylamino)-methyl]-phenyl}-acetic acid methyl ester | 0.81 g | COC(CC1=CC(=CC=C1)CNCC1=C(C=CC=C1)O)=O | C17H19NO3
reactant | lithium borohydride | 186 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-{[3-(2-Hydroxy-ethyl)-benzylamino]-methyl}-phenol | 400 mg | OCCC=1C=C(CNCC2=C(C=CC=C2)O)C=CC1 | C16H19NO2
